US08067613B2
methyl 5-(pyridin-2-yl)thiophene-2-carboxylate
To methyl 5-bromo-thiophene-2-carboxylate (2 g), tri-2-furylphosphine (400 mg), and tris(dibenzylidineacetone)dipalladium(0) (400 mg) was added DMF (50 mL), 2-(tributylstannyl)pyridine (4 g) and TEA (1 mL) The mixture was heated at 80° C. for 7 hours, cooled and partitioned between ethyl acetate and brine. The aqueous phase was extracted with ethyl acetate, and the extract was dried, filtered and concentrated. The concentrate was flash chromatographed on silica gel with a 20-70% ethyl acetate in hexane.

reactant | methyl 5-bromo-thiophene-2-carboxylate | 2 g | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
reactant | tri-2-furylphosphine | 400 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 2-(tributylstannyl)pyridine | 4 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 5-(pyridin-2-yl)thiophene-2-carboxylate | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)OC | C11H9NO2S
